US04806536
N-{4-[2-(4-[1-Methyl-2-imidazolyl]-1-piperazinyl)acetyl]phenyl}methanesulphonamide
Treatment of 1-(1-methyl-2-imidazolyl)piperazine (0.37 g) with N-[4-bromoacetylphenyl]methanesulphonamide (0.64 g) according to the method of Example 1 gave the title compound, (0.36 g), m.p. 196°-197° C.

reactant | 1-(1-methyl-2-imidazolyl)piperazine | 0.37 g | CN1C(=NC=C1)N1CCNCC1 | C8H14N4
reactant | N-[4-bromoacetylphenyl]methanesulphonamide | 0.64 g | BrCC(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C9H10BrNO3S
product | N-{4-[2-(4-[1-Methyl-2-imidazolyl]-1-piperazinyl)acetyl]phenyl}methanesulphonamide | 0.36 g | CN1C(=NC=C1)N1CCN(CC1)CC(=O)C1=CC=C(C=C1)NS(=O)(=O)C | C17H23N5O3S
